US04382892
10.5 g (0.05 mol) of 2,4-dichloro-3-fluoronitrobenzene was dissolved in 30 ml of dimethyl sulfoxide, and 8 ml of a 10% aqueous solution of sodium hydroxide was added to the mixture, followed by stirring the mixture at a temperature of 60° to 70° C. for 20 hours. After completion of the reaction, 200 ml of water was added thereto and the unreacted starting material was removed by extraction with diethyl ether. The aqueous layer was made acidic with acetic acid and extracted with diethyl ether. The ether extract was dried over sodium sulfate and the ether was distilled off. The resulting residue was purified by silica gel (100 g) column chromatography using chloroform as an eluant to provide 3,4 g (35.5% yield) of 3-chloro-2-fluoro-6-nitrophenol with m.p. 73° C.

reactant | 2,4-dichloro-3-fluoronitrobenzene | 0.05 mol, 10.5 g | ClC1=C(C=CC(=C1F)Cl)[N+](=O)[O-] | C6H2Cl2FNO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 3-chloro-2-fluoro-6-nitrophenol | 3,4 g, 35.5% yield | ClC=1C(=C(C(=CC1)[N+](=O)[O-])O)F | C6H3ClFNO3
